US05440044
4-{6-[(1E)-(3RS)-3-Hydroxy-1-undecenyl]-2-pyridylamino}-5-oxo-pentanoic acid
Under the conditions of example 2, 60 mg of 4-{6-[(1E)-(3RS)-3-hydroxy-1-undecenyl]-2-pyridylamino}-5-oxo-pentanoic acid methyl ester in 1.5 ml of methanol is saponified with 1.5 ml of 1 n sodium hydroxide solution and worked up. 40 mg of the title compound is obtained as colorless oil.

reactant | 4-{6-[(1E)-(3RS)-3-hydroxy-1-undecenyl]-2-pyridylamino}-5-oxo-pentanoic acid methyl ester | 60 mg | COC(CCC(C=O)NC1=NC(=CC=C1)\C=C\C(CCCCCCCC)O)=O | C22H34N2O4
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 1.5 ml | CO | CH4O
product | 4-{6-[(1E)-(3RS)-3-Hydroxy-1-undecenyl]-2-pyridylamino}-5-oxo-pentanoic acid | 40 mg | OC(/C=C/C1=CC=CC(=N1)NC(CCC(=O)O)C=O)CCCCCCCC | C21H32N2O4
